US06987114B1
1-(2-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 2-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (231 mg, yield: 57.5%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 2-cyanobenzyl bromide | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
product | 1-(2-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 231 mg, yield: 57.5% | C(#N)C1=C(CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)C(C)C)=O)=O)C=CC=C1 | C24H23N3O3
